US05466689
4,6,6a,8,9,10a-Hexahydro-10a-methyl-7-(4-phthalimidobutyl)-7H-indolo[3,4-gh][1.4]benzoxazine
To a solution of 4,6,6a,8,9,10a-hexahydro-10a-methylindolo[3,4-gh][1.4]benzoxazine (100 mg, 0.44 mmol) in DMF (5 ml) were added potassium carbonate (303 mg, 2.2 mmol), N-(4=bromobutyl)phthalimido (124 mg, 0.44 mmol) and sodium iodide (0.66 mg, 0.44 mmol). The mixture was heated at 60° C. for 24 hours. After completion of the reaction, the reaction mixture was added to ice water-ethyl acetate. The organic layer was separated, washed with a saturated aqueous saline solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with n-hexane-ethyl acetate (3:2), to afford 130 mg (69%) of the title compound as an amorphous crystalline product.

reactant | 4,6,6a,8,9,10a-hexahydro-10a-methylindolo[3,4-gh][1.4]benzoxazine | 0.44 mmol, 100 mg | CC12C(NCCO1)CC=1C3=C2C=CC=C3NC1 | C14H16N2O
reactant | potassium carbonate | 2.2 mmol, 303 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.44 mmol, 0.66 mg | [I-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4,6,6a,8,9,10a-Hexahydro-10a-methyl-7-(4-phthalimidobutyl)-7H-indolo[3,4-gh][1.4]benzoxazine | 130 mg, 69% | CC12C(N(CCO1)CCCCN1C(C=3C(C1=O)=CC=CC3)=O)CC=3C1=C2C=CC=C1NC3 | C26H27N3O3
